US07968538B2
1-(5-Chloro-2-methoxyphenyl)ethanamine
1-(5-Chloro-2-methoxyphenyl)ethanone (6.7 g, 36.3 mmol) and formic acid (1.74 g, 27.7 mmol) were heated in formamide (10 mL) at 170° C. for 20 h. The mixture was cooled to room temperature, diluted with water and extracted with benzene. After removal of benzene by rotary evaporation the crude mixture was heated under reflux conditions in 3M HCl for 30 h. After cooling, the reaction was added to ether and extracted. The aqueous layer was basified with NaOH to pH 9 and extracted with dichloromethane. The dichloromethane was evaporated to collect the title compound (2.7 g, 40%). 1H NMR (400 MHz, CDCl3): δ 7.39 (d, 1H), 7.26 (q, 1H), 6.81 (d, 1H), 4.62 (m, 1H), 3.84 (s, 3H), 1.69 (d, 3H).

reactant | 1-(5-Chloro-2-methoxyphenyl)ethanone | 36.3 mmol, 6.7 g | ClC=1C=CC(=C(C1)C(C)=O)OC | C9H9ClO2
reactant | formic acid | 27.7 mmol, 1.74 g | C(=O)O | CH2O2
reactant | formamide | 10 mL | C(=O)N | CH3NO
solvent | water | O | H2O
product | 1-(5-Chloro-2-methoxyphenyl)ethanamine | ClC=1C=CC(=C(C1)C(C)N)OC | C9H12ClNO
